US07906517B2
Ethyl 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoate (113 mg) is dissolved in a mixed solvent of ethanol (2 ml) and tetrahydrofuran (1 ml), and thereto is added 1M-aqueous sodium hydroxide solution (1 ml), and the mixture is stirred at room temperature for 2 hours. The reaction solution is made weakly acidic with a 10% aqueous citric acid solution, and the mixture is extracted with ethyl acetate, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→49:1) to give 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid (111 mg). MS (m/z): 711 [M+H]+

reactant | Ethyl 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoate | 113 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCOC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)OCC)CC)C=C(C1)C(F)(F)F)(F)F | C34H39F9N4O4
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-{[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methoxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-hexanoic acid | 111 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCOC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCCCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C32H35F9N4O4
